US07816386B2
Preparation of (2E)-N-Mercapto-3-{4-[(4-nitro-benzyloxyimino)-methyl]-phenyl}-acrylamide (ST3605)
Compound (2E)-3-{4-[(4-Nitro-benzyloxyimino)-methyl]-phenyl}-N-tritylsulfanyl-acrylamide was obtained (0.050 g, 0.08 mmol, 26% yield) by reaction of intermediate C (2E)-3-[4-({[(4-nitrobenzyl)oxy]imino}-methyl)phenyl]acrylic acid (ST3075, 0.100 g, 0.31 mmol) with SOCl2 (34 μL, 0.46 mmol), DIEA (236 μL, 1.38 mmol) and Triphenylmethanesulfenamide (0.098 g, 0.14 mmol) in anhydrous DCM at room temperature.

reactant | (2E)-3-[4-({[(4-nitrobenzyl)oxy]imino}-methyl)phenyl]acrylic acid | 0.31 mmol, 0.100 g | [N+](=O)([O-])C1=CC=C(CON=CC2=CC=C(C=C2)/C=C/C(=O)O)C=C1 | C17H14N2O5
reactant | SOCl2 | 0.46 mmol, 34 μL | O=S(Cl)Cl | Cl2OS
reactant | DIEA | 1.38 mmol, 236 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Triphenylmethanesulfenamide | 0.14 mmol, 0.098 g | C1(=CC=CC=C1)C(SN)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17NS
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2E)-N-Mercapto-3-{4-[(4-nitro-benzyloxyimino)-methyl]-phenyl}-acrylamide | SNC(\C=C\C1=CC=C(C=C1)C=NOCC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H15N3O4S
